US07834034B2
To a suspension of sodium sulfide (7.95 g, 102 mmol) in anhydrous DMF (200 mL) at 0° C. were added acetic acid (5.80 mL, 102 mmol) and additional DMF (100 mL). The mixture was allowed to stir at 0° C. for 30 min and chloroacetic acid tert-butyl ester (14.6 mL, 102 mmol) was added followed by additional DMF (50 mL). The resulting mixture was allowed to stir at 0° C. for 30 min and at rt for 30 min. To this mixture were added K2CO3 (16.4 g, 119 mmol) and 3-formyl-4-nitro-benzoic acid methyl ester (17.68 g, 84.55 mmol) in DMF (30 mL). The resulting mixture was heated at 55° C. for 22 h, cooled to rt and poured into water (1.2 L). The solid formed was filtered, washed with water (300 mL) and crystallized from MeOH to give benzo[b]thiophene-2,5-dicarboxylic acid 2-tert-butyl ester 5-methyl ester as a pale solid. MS (EI): cal'd 237.0 (M-tbutyl+H+), exp 237.1 (M-tbutyl+H+).

reactant | sodium sulfide | 102 mmol, 7.95 g | [S-2].[Na+].[Na+]
reactant | acetic acid | 102 mmol, 5.80 mL | C(C)(=O)O | C2H4O2
reactant | chloroacetic acid tert-butyl ester | 102 mmol, 14.6 mL | C(C)(C)(C)OC(CCl)=O | C6H11ClO2
reactant | K2CO3 | 119 mmol, 16.4 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 3-formyl-4-nitro-benzoic acid methyl ester | 84.55 mmol, 17.68 g | COC(C1=CC(=C(C=C1)[N+](=O)[O-])C=O)=O | C9H7NO5
solvent | DMF | 200 mL | CN(C)C=O | C3H7NO
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
solvent | water | 1.2 L | O | H2O
product | benzo[b]thiophene-2,5-dicarboxylic acid 2-tert-butyl ester 5-methyl ester | COC(=O)C1=CC2=C(SC(=C2)C(=O)OC(C)(C)C)C=C1 | C15H16O4S
